US07465798B2
2-(3,4-Dichlorobenzyl)-3-hydroxy-7,8,9,10-tetrahydrobenzo[h]quinoline-4-carboxylic acid (Compound 7)
The Pfitzinger reaction was used. In a 2-necked 25 mL round-bottomed flask, 6,7,8,9-tetrahydrobenzo[g]indoline-2,3-dione (0.119 g, 0.590 mmol) was taken up in 1 mL ethanol and 3 mL 10 M NaOH, and the mixture heated to reflux temperature. A solution of 3-(3,4-dichlorophenyl)-2-oxopropyl acetate (0.200 g, 0.767 mmol) in 3 mL ethanol was added in small portions over the course of 1 hour, by syringe. Refluxing was continued for an additional hour after the addition was complete, and the reaction mixture was then cooled to room temperature and acidified with glacial acetic acid, and the yellow precipitate collected by filtration. This crude product was purified by preparative HPLC (acetonitrile/water/triethylamine), and the pure salt thus obtained was converted back to the free acid by acidification of a 5% acetonitrile in water solution with concentrated HCl. The bright yellow precipitate was collected by filtration and dried under vacuum (47.8 mg, 20% yield): 1H NMR (400 MHz, DMSO-d6) δ 1.73-1.86 (m, 4H) 2.81 (t, J=6.1 Hz, 2H) 3.12 (t, J=5.9 Hz, 2H) 4.30 (s, 2H) 7.28 (t, J=8.7 Hz, 2H) 7.53 (d, J=8.1 Hz, 1H) 7.59 (d, J=2.0 Hz, 1H) 8.19 (d, J=8.6 Hz, 1H); HRMS (ESI+) calcd for C21H18Cl2NO3 (MH+) 402.0658, found 402.0661.

reactant | 6,7,8,9-tetrahydrobenzo[g]indoline-2,3-dione | 0.590 mmol, 0.119 g | N1C(C(C2=CC=C3C(=C12)CCCC3)=O)=O | C12H11NO2
reactant | 3-(3,4-dichlorophenyl)-2-oxopropyl acetate | 0.767 mmol, 0.200 g | C(C)(=O)OCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | NaOH | 10 M, 3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(3,4-Dichlorobenzyl)-3-hydroxy-7,8,9,10-tetrahydrobenzo[h]quinoline-4-carboxylic acid | 20% yield | ClC=1C=C(CC2=NC3=C4C(=CC=C3C(=C2O)C(=O)O)CCCC4)C=CC1Cl | C21H17Cl2NO3
